US08012976B2
Ethyl 2-(4-fluorophenyl)-3-methyl-3-(1-methyl-1H-imidazol-2-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate
To a solution of ethyl 2-(4-fluorophenyl)-3-(1-methyl-1H-imidazol-2-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate (150 mg, 0.38 mmol) and cesium carbonate (268 mg, 0.76 mmol) in DMF (10 mL) was added iodomethane (0.2 mL, 2.28 mmol) at 0° C. under N2. The reaction mixture was stirred at 0° C. for 4 h and then at room temperature overnight. The resulting solution was added 50 mL of water, and then extracted with ethyl acetate (100 mL×3). The extracts were concentrated to give the crude product as a yellow solid (145 mg, yield 90%), which was used in the next step without further purification. LC-MS (ESI) m/z: 408 (M+1)+.

reactant | ethyl 2-(4-fluorophenyl)-3-(1-methyl-1H-imidazol-2-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 0.38 mmol, 150 mg | FC1=CC=C(C=C1)C1NC=2C=CC=C(C2C(C1C=1N(C=CN1)C)=O)C(=O)OCC | C22H20FN3O3
reactant | cesium carbonate | 0.76 mmol, 268 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodomethane | 2.28 mmol, 0.2 mL | IC | CH3I
reactant | water | 50 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Ethyl 2-(4-fluorophenyl)-3-methyl-3-(1-methyl-1H-imidazol-2-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 145 mg, yield 90% | FC1=CC=C(C=C1)C1NC=2C=CC=C(C2C(C1(C=1N(C=CN1)C)C)=O)C(=O)OCC | C23H22FN3O3
